US08470877B2
Step C [4-Fluoro-3-(2,2,2-trifluoro-ethoxy)phenyl]-acetonitrile
900 mg (13.8 mmol) of KCN were added to a solution of 3.3 g (11.5 mmol) of 4-bromomethyl-1-fluoro-2-(2,2,2-trifluoro-ethoxy)-benzene in 30 ml of dry dimethylsulfoxide. The reaction mixture was stirred for 1 hour at room temperature. Water was added and the product was extracted with diethyl ether. The solvent was removed under vacuum and the crude residue was purified by flash chromatography (hexane/ethyl acetate 8:2 v:v). 1.4 g (52% yield) of the title compound were isolated as a white solid.

reactant | KCN | 13.8 mmol, 900 mg | [C-]#N.[K+]
reactant | 4-bromomethyl-1-fluoro-2-(2,2,2-trifluoro-ethoxy)-benzene | 11.5 mmol, 3.3 g | BrCC1=CC(=C(C=C1)F)OCC(F)(F)F | C9H7BrF4O
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | [4-Fluoro-3-(2,2,2-trifluoro-ethoxy)phenyl]-acetonitrile | 1.4 g, 52% yield | FC1=C(C=C(C=C1)CC#N)OCC(F)(F)F | C10H7F4NO
